US09376408B2
(4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-3-(2-bromo-5-(trifluoromethyl)benzyl)-4-methylthiazolidin-2-one
To a solution of (4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-4-methylthiazolidin-2-one (50 mg, 0.152 mmol) in THF (1 ml) was added NaH (7.59 mg, 0.190 mmol) at −20° C. 30 Minutes later, a solution of 2-bromo-5-(trifluoromethyl)benzyl methanesulfonate (50.6 mg, 0.152 mmol) in THF (0.5 ml) was added. Stirring of the reaction continued for 1 hour. A crude NMR spectrum showed only 25% product formation. The reaction temperature was increased to −10° C., and stirring was continued for another 1 h. The reaction mixture was left in the freezer under N2 atmosphere overnight. NMR and LCMS indicated around a 65% conversion to the desired isomer, with no undesired epimerized product. The reaction was cooled to −10° C., and additional NaH (2.429 mg, 0.061 mmol) was added. Stirring of the reaction mixture was continued for 20 minutes. 2-Bromo-5-(trifluoromethyl)benzyl methanesulfonate (20.2 mg, 0.061 mmol) was added, and the reaction was continued for another 2 hours at −10° C. The reaction mixture was quenched with ice water, and the mixture was diluted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by PTLC by using 35% EtOAc in hexane. 1H NMR (500 MHz, CDCl3): δ 7.90 (s, 1H); 7.85 (s, 2H); 7.76 (d, J=8.3 Hz, 1H); 7.59 (s, 1H); 7.48 (d, J=8.5 Hz, 1H); 5.15 (d, J=7.0 Hz, 1H); 5.02 (d, J=16.0 Hz, 1H); 4.45 (d, J=16.0 Hz, 1H); 4.10-4.11 (m, 1H); 0.97 (d, J=6.5 Hz, 3H).

reactant | (4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-4-methylthiazolidin-2-one | 0.152 mmol, 50 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(S1)=O)C)(F)F | C12H9F6NOS
reactant | NaH | 0.190 mmol, 7.59 mg | [H-].[Na+]
reactant | 2-bromo-5-(trifluoromethyl)benzyl methanesulfonate | 0.152 mmol, 50.6 mg | CS(=O)(=O)OCC1=C(C=CC(=C1)C(F)(F)F)Br | C9H8BrF3O3S
reactant | NaH | 0.061 mmol, 2.429 mg | [H-].[Na+]
reactant | 2-Bromo-5-(trifluoromethyl)benzyl methanesulfonate | 0.061 mmol, 20.2 mg | CS(=O)(=O)OCC1=C(C=CC(=C1)C(F)(F)F)Br | C9H8BrF3O3S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-3-(2-bromo-5-(trifluoromethyl)benzyl)-4-methylthiazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(S1)=O)CC1=C(C=CC(=C1)C(F)(F)F)Br)C)(F)F | C20H13BrF9NOS
